US04029802
A mixture of 24.5 parts of 5,5'-[(2-hydroxytrimethylene)dioxy]bis [4-oxo-4H-1-benzopyran-2-carboxylic acid] diethyl ester and 47.6 parts of thionyl chloride in 40 parts of dry 1,2-dichloroethane was refluxed for 16 hours. The solvent was then evaporated, the residue was triturated with petrol and the resulting solid was crystallized from ethanol to give 15.6 parts of 5,5'-[(2-chlorotrimethylene)dioxy]bis[4-oxo-4H-1-benzopyran-2-carboxylic acid], diethyl ester as white crystals m.p. 144°-144.5° C.

reactant | 5,5'-[(2-hydroxytrimethylene)dioxy]bis [4-oxo-4H-1-benzopyran-2-carboxylic acid] diethyl ester | C(C)OC(=O)C=1OC2=C(C(C1)=O)C(=CC=C2)OCC(COC2=CC=CC1=C2C(C=C(O1)C(=O)OCC)=O)O | C27H24O11
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 5,5'-[(2-chlorotrimethylene)dioxy]bis[4-oxo-4H-1-benzopyran-2-carboxylic acid] | ClC(COC1=CC=CC2=C1C(C=C(O2)C(=O)O)=O)COC2=CC=CC1=C2C(C=C(O1)C(=O)O)=O | C23H15ClO10
